*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/1.00e-01[uF]/10[V]
* Murata P/N :GRM155R61A104MA01
* Property : C = 1.00e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R61A104MA01 Port1 Port2
C01 Port1 N01 9.40e-08
R01 Port1 N01 5.00e+09
L02 N01 N02 1.66e-10
R03 N02 N03 1.35e-02
C04 N03 N04 9.88e-06
R04 N03 N04 4.03e+02
C05 N04 N05 1.40e-05
R05 N04 N05 4.12e+01
C06 N05 N06 1.50e-05
R06 N05 N06 5.19e+00
C07 N06 N07 1.19e-05
R07 N06 N07 1.33e+00
C08 N07 N08 9.36e-06
R08 N07 N08 1.68e-01
C09 N08 N09 1.77e-05
R09 N08 N09 2.51e-02
C10 N09 N10 3.56e-06
R10 N09 N10 1.88e-02
L11 N10 N11 2.33e-11
R11 N10 N11 1.40e-01
L12 N11 N12 1.38e-10
R12 N11 N12 5.82e-02
C13 N12 N13 3.01e-07
L13 N12 N13 1.63e-11
R13 N12 N13 1.56e-02
C14 N13 Port2 6.36e-12
L14 N13 Port2 4.49e-11
R14 N13 Port2 5.68e+00
.ENDS GRM155R61A104MA01
